US04015007
An amount of 6.0 g (0.030 mole) of spiro[bicyclo[2.2.2]-octane-2,3'-piperidine] is dissolved in 50 ml of ethanol; additions are then made of 6.8 g (0.033 mole) of phenethylbromide and 10 g (ca. 0.07 mole) of anhydrous potassium carbonate, and the whole subsequently refluxed, with stirring, for 18 hours. The reaction mixture is filtered, and the brown filtrate concentrated in vacuo (ca. 12 Torr). The viscous residue is distributed between 100 ml of methylene chloride and 100 ml of water. The methylene chloride phase is separated, and the aqueous phase afterwards washed twice with 100 ml of methylene chloride. The combined methylene chloride solutions are dried over sodium sulphate, and then concentrated in vacuo (ca. 12 Torr). There is obtained viscous 1'-phenethylspiro[bicyclo[2.2.2]octane-2,2'-piperidine]. This is dissolved in 50 ml of ether and there is then added to the solution, with stirring, 10 ml of saturated ethereal hydrogen chloride solution. The precipitated hydrochloride is filtered off. There is obtained, after recrystallisation from acetone, 1'-phenethyl-spiro[bicyclo[2.2.2]octane2,3'-piperidine]-hydrochloride, M.P. 263° (with decomposition).

reactant | spiro[bicyclo[2.2.2]-octane-2,3'-piperidine] | 0.030 mole, 6.0 g | N1CC2(CCC1)C1CCC(C2)CC1 | C12H21N
reactant | phenethylbromide | 0.033 mole, 6.8 g | C(CC1=CC=CC=C1)Br | C8H9Br
reactant | potassium carbonate | ca. 0.07 mole, 10 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | 1'-phenethylspiro[bicyclo[2.2.2]octane-2,2'-piperidine] | C(CC1=CC=CC=C1)N1C2(CCCC1)C1CCC(C2)CC1 | C20H29N
